US06329506B1
Boc-Gly-Nleu-Pro-OBz
Boc-Gly-Nleu-OH (12.5 g, 0.043 mol.), HCl.Pro-OBz (11 g, 0.046 mol.) and HOBt (6.0 g, 0.045 mol.) were dissolved in 300 ml DMF and the solution was chilled to 0° C. Triethylamine (12 ml) was added slowly while stirring the solution. After 5 minutes, EDC (8.5 g, 0.043 mol.) was added to the solution and the stirring was continued at room temperature overnight. The DMF was removed under reduced pressure and the resulting mixture was poured into 350 ml ethyl acetate. The ethyl acetate solution was washed by H2O, saturated NaHCO3, brine, saturated NaHSO4 and brine again until the pH of the brine layer was about 7. The organic layer was dried by Na2SO4 and the ethyl acetate was removed under reduced pressure to get the crude product. Column chromatography (elution solvents: E/H, 3:1) was carried out to obtain the pure product (17.5 g, 85%). TLC Rf=0.45 (developing solvents: E/H, 3:1).

reactant | Boc-Gly-Nleu-OH | 0.043 mol, 12.5 g | N(CC(=O)N[C@@H](CCCC)C(=O)O)C(=O)OC(C)(C)C | C13H24N2O5
reactant | HCl | Cl | ClH
reactant | Pro-OBz | 0.046 mol, 11 g | N1[C@H](C(=O)OC(=O)C2=CC=CC=C2)CCC1 | C12H13NO3
reactant | HOBt | 0.045 mol, 6.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.043 mol, 8.5 g
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | Triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
product | Boc-Gly-Nleu-Pro-OBz | 17.5 g, 85% | N(CC(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)OC(=O)C2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C25H35N3O7
